US06908913B2
c) 7-(Pyridin-3-yl)carbonyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole
Tri-n-butylstannyl chloride (0.841 ml) and 2.95 ml of a 1.0 N lithium bis(trimethylsilyl)amide/THF solution were added to a solution of 520 mg of 7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazole in 25 ml of THF at −60° C. under an argon atmosphere, and the mixture was stirred for 20 min. The temperature of the mixture was raised to −50° C., 1.0 ml of a 1.0 N lithium bis(trimethylsilyl)amide/THF solution was added thereto, and the mixture was stirred for 30 min. The temperature of the mixture was raised to −40° C., 0.5 ml of a 1.0 N lithium bis(trimethylsilyl)amide/THF solution was added thereto, and the mixture was stirred for 30 min. An aqueous ammonium chloride solution was added to the reaction solution, and the mixture was extracted with ethyl acetate, followed by washing with brine. The organic layer was dried over anhydrous magnesium sulfate. The solvent was then removed by distillation, and the residue was purified by column chromatography on silica gel (hexane:ethyl acetate=2:1→ethyl acetate only) to give 712 mg of the title compound.

reactant | Tri-n-butylstannyl chloride | 0.841 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | lithium bis(trimethylsilyl)amide THF | 1.0 N | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
reactant | 7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazole | 520 mg | N1=CC(=CC=C1)C(=O)C=1N=CN2C1SC=C2 | C11H7N3OS
reactant | lithium bis(trimethylsilyl)amide THF | 1.0 N | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
reactant | lithium bis(trimethylsilyl)amide THF | 1.0 N | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 7-(Pyridin-3-yl)carbonyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 712 mg | N1=CC(=CC=C1)C(=O)C=1N=CN2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C11H6N3OS.3C4H9.Sn/c15-10(8-2-1-3-12-6-8)9-11-14(7-13-9)4-5-16-11;3*1-3-4-2;/h1-4,6-7H;3*1,3-4H2,2H3;
